US08097610B2
Preparation of 2-[3,5-dimethyl-4-(6-trifluoromethylbenzothiazole-2-yl)piperazine-1-yl]ethanol
A mixture of 2-(2,6-dimethyl piperazine-1-yl)-6-trifluoromethyl benzothiazole (360 mg), (2-bromoethoxy)-t-butyldimethyl silane (257 uL), potassium carbonate (157 mg) and dimethylformamide (2 mL) was stirred at 60° C. for 20 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and dried over sodium carbonate. After evaporating the solvent, the residue was purified by column chromatograph on silica gel to give the title compound (265 mg). Yield: 65%.

reactant | 2-(2,6-dimethyl piperazine-1-yl)-6-trifluoromethyl benzothiazole | 360 mg | CC1N(C(CNC1)C)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C14H16F3N3S
reactant | (2-bromoethoxy)-t-butyldimethyl silane | 257 uL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | potassium carbonate | 157 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[3,5-dimethyl-4-(6-trifluoromethylbenzothiazole-2-yl)piperazine-1-yl]ethanol | 265 mg, Yield: 65% | CC1CN(CC(N1C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C)CCO | C16H20F3N3OS
